US04623728
1-(4-Hydroxy-4-[4-fluorophenyl]butyl)-3-(3-hydroxyphenyl)piperidine
A mixture of 230 mg (5 mmole) of 1-(4-oxo-4-[4-fluorophenyl]butyl)-3-(3-hydroxyphenyl)piperidine and 193 mg (5 mmole) of sodium borohydride in 20 ml of methanol was stirred at room temperature overnight. The solvent was removed by evaporation in vacuo, and the residue was partitioned between ethyl acetate and water. The layers were separated, the aqueous phase was further extracted with ethyl acetate, and all the ethyl acetate phases were combined. The resulting ethyl acetate solution was washed with water, followed by saturated sodium chloride, and then it was dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on 150 ml of silica gel, eluting with chloroform/methanol (9:1). The product-containing fractions were combined and evaporated in vacuo to give 125 mg (67% yield) of the title compound as a foam, containing chloroform of solvation.

reactant | 1-(4-oxo-4-[4-fluorophenyl]butyl)-3-(3-hydroxyphenyl)piperidine | 5 mmole, 230 mg | O=C(CCCN1CC(CCC1)C1=CC(=CC=C1)O)C1=CC=C(C=C1)F | C21H24FNO2
reactant | sodium borohydride | 5 mmole, 193 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 1-(4-Hydroxy-4-[4-fluorophenyl]butyl)-3-(3-hydroxyphenyl)piperidine | 125 mg, 67% yield | OC(CCCN1CC(CCC1)C1=CC(=CC=C1)O)C1=CC=C(C=C1)F | C21H26FNO2
